US05910498
Ethyl 1-(3-amino-4,6-difluorophenyl)-6,7,8-trifluoro-1,4-dihydro-4-oxoquinoline-3-carboxylate
Ethyl 1-(2,4-difluoro-5-nitrophenyl)-6,7,8-trifluoro-1,4-dihydro-4-oxoquinoline-3-carboxylate (2.2 g) was dissolved in 20 ml of methanol, 50 ml of acetic acid, and 10 ml of dichloroethane, to which was added 200 mg of 10% palladium on carbon. Under a hydrogen atmosphere, the solution was stirred overnight at room temperature. The catalyst was removed by a membrane filter and the filtrate was concentrated in vacua. Ethanol was added to the residue whereupon the solid was collected by filtration and washed with diethyl ether to give 1.12 g of the title compound.

reactant | Ethyl 1-(2,4-difluoro-5-nitrophenyl)-6,7,8-trifluoro-1,4-dihydro-4-oxoquinoline-3-carboxylate | 2.2 g | FC1=C(C=C(C(=C1)F)[N+](=O)[O-])N1C=C(C(C2=CC(=C(C(=C12)F)F)F)=O)C(=O)OCC | C18H9F5N2O5
reactant | acetic acid | 50 ml | C(C)(=O)O | C2H4O2
reactant | dichloroethane | 10 ml | ClC(C)Cl | C2H4Cl2
solvent | methanol | 20 ml | CO | CH4O
catalyst | palladium on carbon | 200 mg | [Pd] | Pd
product | Ethyl 1-(3-amino-4,6-difluorophenyl)-6,7,8-trifluoro-1,4-dihydro-4-oxoquinoline-3-carboxylate | 1.12 g | NC=1C=C(C(=CC1F)F)N1C=C(C(C2=CC(=C(C(=C12)F)F)F)=O)C(=O)OCC | C18H11F5N2O3
